US07632840B2
The N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-isopropyl-L-alanine used as starting material was prepared as follows: 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde was coupled with isopropylamine using an analogous method to that described for the equivalent step in Example 1 to give N-(3-chloro-2-fluorophenyl)-6-[(isopropylamino)methyl]-7-methoxyquinazolin-4-amine; 1H NMR Spectrum: (DMSO-d6) 1.07 (d, 6H); 1.90 (brs, 1H); 2.80 (m, 1H); 3.83 (s, 2H); 3.97 (s, 3H); 7.20 (s, 1H); 7.28 (t, 1H); 7.50 (m, 2H); 8.32 (s, 1H); 8.43 (s, 1H); 9.76 (s, 1H); Mass Spectrum: (M+H)+ 375.

reactant | N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-N-isopropyl-L-alanine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN([C@@H](C)C(=O)O)C(C)C)OC)F | C22H24ClFN4O3
reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)C=O)OC)C=CC1)F | C16H11ClFN3O2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-(3-chloro-2-fluorophenyl)-6-[(isopropylamino)methyl]-7-methoxyquinazolin-4-amine | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNC(C)C)OC)F | C19H20ClFN4O
